US07101994B2
2-Bromo-5,6-dichlorobenzimidazole (4.0 g, 15 mmol), N,O-bis(trimethylsiyl)acetamide (Aldrich, 3.7 mL, 15 mmol), and 1,2-dichloroethane (Aldrich Sure Seal, 75 mL) were combined and refluxed under nitrogen for 0.5 h. The solution was cooled to room temperature and trimethylsilyl triflate (Aldrich, 3.2 ml, 16 mmol) was added. Immediately, 4.8 g (15 mmol) solid 1,2,3,4-tetra-O-acetyl-b-D-ribopyranose (beta-D-ribopyranose 1,2,3,4-tetraacetate, Aldrich, Milwaukee) was added. The solution was stirred under nitrogen at reflux for 0.5 h, then poured into 7% aqueous sodium bicarbonate and extracted with dichloromethane. The organic layers was dried with magnesium sulfate (anhyd.), filtered, and evaporated. The crude residue was purified on a silica gel column (5×20 cm, 230-400 mesh) with CH2Cl2 to give 2-bromo-5,6-dichloro-1-(2,3,4-tri-O-acetyl-β-D-ribopyranosyl)-1H-benzimidazole which was fractionated in two parts based on elution. The faster product fraction was impure (1.9 g) and purified by a second column to give 1.4 g (2.7 mmol); the slower product fraction was (3.0 g, 5.7 mmol) for a total yield of 56%; m.p. 100-110° C.; 1H NMR (DMSO-d6) δ 8.39 (s, 1H), 7.91 (s, 1H), 5.95-5.92 (d, 1H, J=9.6 Hz), 5.73-5.70 (d, 1H, J=9.6 Hz), 5.67 (bs, 2H), 4.13-4.09 (dd, 1H, J=6.3 Hz and J=5.8 Hz), 4.00-3.95 (overlapping dd, 1H), 2.19 (s, 3H), 1.98 (s, 3H), 1.74 (s, 3H).

reactant | 2-Bromo-5,6-dichlorobenzimidazole | 15 mmol, 4.0 g | BrC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3BrCl2N2
reactant | trimethylsilyl triflate | 16 mmol, 3.2 ml | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | 1,2,3,4-tetra-O-acetyl-b-D-ribopyranose | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1 | C13H18O9
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 75 mL | ClCCCl | C2H4Cl2
product | 2-bromo-5,6-dichloro-1-(2,3,4-tri-O-acetyl-β-D-ribopyranosyl)-1H-benzimidazole | yield of 56% | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)Cl)Cl | C18H17BrCl2N2O7
